US04908461
Preparation of Perfluoro-2-Ethyl-2-Methyl-1,3-Dioxole
This example was carried out as illustrated in Example 4 with lithium aluminum hydride (6.14 g, 0.162 mole), titanium (IV) chloride (7.67 g, 4.43 mL, 0.041 mole) and 4,5-dichloro-4,5-difluoro-2-pentafluoroethyl-2-trifluoromethyl-1,3-dioxolane (29.5 g, 0.081 mole) in tetrahydrofuran (100 mL). The pure desired product obtained after distillation and washing with ice-water, perfluoro-2-ethyl-2-methyl-1,3-dioxole, was 9.0 g (38% yield); boiling point 42°-43° C.

reactant | lithium aluminum hydride | 0.162 mole, 6.14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,5-dichloro-4,5-difluoro-2-pentafluoroethyl-2-trifluoromethyl-1,3-dioxolane | 0.081 mole, 29.5 g | ClC1(OC(OC1(F)Cl)(C(F)(F)F)C(C(F)(F)F)(F)F)F | C6Cl2F10O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | titanium (IV) chloride | 0.041 mole, 4.43 mL, 7.67 g | [Ti](Cl)(Cl)(Cl)Cl
product | Perfluoro-2-Ethyl-2-Methyl-1,3-Dioxole | 38% yield | FC=1OC(OC1F)(C(F)(F)F)C(C(F)(F)F)(F)F | C6F10O2
